US05240976
N,N-Dicyclohexylmethyl-N',N'-dibenzyl-2-butene-1,4-diamine
A solution of 1-acetoxy-4-dibenzylamino-2-butene (10.1 g, 33 mmol) and dicyclohexylmethylamine (6.8 g, 32 mmol) in 50 ml of THF is treated with tetrakis(triphenylphosphine)palladium (0) (1.0 g, 0.9 mmol) and stirred at room temperature overnight. The reaction mixture is concentrated in vacuo to a solid which is redissolved in 100 ml of THF and treated with 25 ml of 20% aqueous sodium hydroxide. The mixture is stirred for one hour, concentrated and extracted with diethyl ether. The ether extracts are dried and concentrated to give a solid which is then purified by crystallization from isopropanol. The title compound is obtained in a yield of 9.7 g (65%) as a white solid melting at 61°-62° C.

reactant | 1-acetoxy-4-dibenzylamino-2-butene | 33 mmol, 10.1 g | C(C)(=O)OCC=CCN(CC1=CC=CC=C1)CC1=CC=CC=C1 | C20H23NO2
reactant | dicyclohexylmethylamine | 32 mmol, 6.8 g | C1(CCCCC1)C(C1CCCCC1)N | C13H25N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.9 mmol, 1.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N,N-Dicyclohexylmethyl-N',N'-dibenzyl-2-butene-1,4-diamine | C1(CCCCC1)CN(CC=CCN(CC1=CC=CC=C1)CC1=CC=CC=C1)CC1CCCCC1 | C32H46N2
